US06703348B2
Step 3: 3-Oxocyclohex-1-enyl 2-chloro-4-methylsulfonyl-3-(3a,4,5,6a-tetra-hydrofuro[3,2-d]isoxazol-3-yl)benzoate
58.0 g (167.8 mmol) of 2-chloro-4-methylsulfonyl-3-(3a,4,5,6a-tetrahydrofuro[3,2-d]isoxazol-3-yl)-benzoate are dissolved in 600 ml of dichloromethane, and 31.94 g (251.6 mmol) of oxalyl chloride and three drops of dimethylformamide are added at room temperature. After the evolution of gas has ceased (approx. 2 hours), the mixture is refluxed for a further hour. It is subsequently concentrated, and redissolved in 300 ml of dichloromethane. At 0-5° C., a mixture of 19.5 g (173.9 mmol) of 1,3-cyclohexanedione and 17.6 g (173.9 mmol) of triethylamine in 200 ml of dichlormethane is added dropwise. The mixture is stirred for 2 hours and then washed in succession with sodium carbonate solution and sodium chloride solution, and the organic phase is then dried over magnesium sulfate. After removal of the solvent, 64.5 g (87% of theory) of crude 3-oxocyclohex-1-enyl 2-chloro-4-methyl-sulfonyl-3-(3a,4,5,6a-tetrahydrofuro[3,2-d]isoxazol-3-yl)benzoate are obtained.

reactant | 2-chloro-4-methylsulfonyl-3-(3a,4,5,6a-tetrahydrofuro[3,2-d]isoxazol-3-yl)-benzoate | 167.8 mmol, 58.0 g | ClC1=C(C(=O)[O-])C=CC(=C1C1=NOC2C1CCO2)S(=O)(=O)C
reactant | oxalyl chloride | 251.6 mmol, 31.94 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1,3-cyclohexanedione | 173.9 mmol, 19.5 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | triethylamine | 173.9 mmol, 17.6 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | three drops | CN(C=O)C | C3H7NO
solvent | dichlormethane | 200 ml | ClCCl | CH2Cl2
product | 3-Oxocyclohex-1-enyl 2-chloro-4-methylsulfonyl-3-(3a,4,5,6a-tetra-hydrofuro[3,2-d]isoxazol-3-yl)benzoate | ClC1=C(C(=O)OC2=CC(CCC2)=O)C=CC(=C1C1=NOC2C1CCO2)S(=O)(=O)C | C19H18ClNO7S
